US06921759B2
Step 1: Preparation of tert-butyl 2-[(vinylsulfonyl)amino]ethylcarbamate.
To a solution of N-Boc ethylenediamine (1.24 g, 7.74 mmol) in methylene chloride (35 ml) at −10 C, was added triethylamine (2.37 ml, 17.0 mmol). 2-chloro-1-ethanesulfonyl chloride (0.809 mL, 7.74 mmol). After 4 hr at −10 C the cold bath was removed and the reaction was stirred for 12 hr at room temperature. The reaction was quenched by the addition of Na2CO3 (sat aq.) and extracted with methylene chloride. The organic extracts were dried (MgSO4) and the solvent evaporated in vacuo to afford the title compound as an oil which was used in the next step without further purification.

reactant | N-Boc ethylenediamine | 7.74 mmol, 1.24 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | triethylamine | 17.0 mmol, 2.37 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-ethanesulfonyl chloride | 7.74 mmol, 0.809 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[(vinylsulfonyl)amino]ethylcarbamate | C(=C)S(=O)(=O)NCCNC(OC(C)(C)C)=O | C9H18N2O4S
